US06787541B1
Phenyl 2-trifluoromethylthieno[3,2-d]pyrimidin-4-ylmethanone (Example 1)
A suspension of 4-chloro-2-trifluoromethylthieno[3,2-d]pyrimidine (0.3 g, 1.26 mmol), benzaldehyde (0.28 g, 2.64 mmol) and N,N-dimethylimidazolium iodide (0.2 g, 0.89 mmol) in THF (8 mL) was treated with NaH (60% dispersion in oil, 0.112 g, 2.8 mmol), refluxed for 15 min, cooled to room temperature, treated with water (4 mL) and the organic phase separated. The aqueous phase was extracted with CH2Cl2 (2×20 mL), the combined organic phase washed with brine (10 mL), dried (MgSO4), concentrated in vacuo and the resulting brown oil purified by chromatography [SiO2; heptane-EtOAc (3:1)] then recrystallised from heptane to give the title compound (280 mg, 43%) as yellow needles.

reactant | 4-chloro-2-trifluoromethylthieno[3,2-d]pyrimidine | 1.26 mmol, 0.3 g | ClC=1C2=C(N=C(N1)C(F)(F)F)C=CS2 | C7H2ClF3N2S
reactant | benzaldehyde | 2.64 mmol, 0.28 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | N,N-dimethylimidazolium iodide | 0.89 mmol, 0.2 g | [I-].C[N+]1(C=NC=C1)C
reactant | NaH | 2.8 mmol, 0.112 g | [H-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | Phenyl 2-trifluoromethylthieno[3,2-d]pyrimidin-4-ylmethanone | 280 mg, 43% | C1(=CC=CC=C1)C(=O)C=1C2=C(N=C(N1)C(F)(F)F)C=CS2 | C14H7F3N2OS
